US03985791
A mixture of 30 g. of phenoxyacetic acid, 100 ml. of ethanol and 10 ml. of sulfuric acid is refluxed for 22 hours, cooled, poured into ice water and extracted with methylene chloride. The organic extract is washed with water to neutrality, dried over sodium sulfate and evaporated to dryness under vacuum, to yield ethyl phenoxyacetate, b.p. 123°/17 mm.Hg.

reactant | phenoxyacetic acid | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl phenoxyacetate | O(C1=CC=CC=C1)CC(=O)OCC | C10H12O3
